US03987158
A mixture of chloroacetone (43.75 g.) and finely-powdered potassium iodide (1 g.) in ethyl methyl ketone (50 ml.) was added dropwise, over 25 minutes, to a stirred, refluxing mixture of 3-methylphenol (54 g.) and dry potassium carbonate (82 g.) in ethyl methyl ketone (100 ml). Stirring and refluxing were continued for a total of 5 hours and the mixture was cooled, poured into water (cs. 500 ml.) and extracted with ether. The ether extract was washed exhaustively with 5N-sodium hydroxide, dried over anhydrous sodium sulphate and evaporated. The residue was distilled to give a fraction b.p. 126°-134°/13 mm. Redistillation gave 1-(3-methylphenoxy)-propan-2-one, b.p. 124°-126°/13 mm.

reactant | chloroacetone | 43.75 g | ClCC(C)=O | C3H5ClO
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | 3-methylphenol | 54 g | CC=1C=C(C=CC1)O | C7H8O
reactant | potassium carbonate | 82 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
solvent | water | 500 ml | O | H2O
product | 1-(3-methylphenoxy)-propan-2-one | CC=1C=C(OCC(C)=O)C=CC1 | C10H12O2
